US06329389B1
7-Benzyloxycarbonylamino-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylic acid
To a solution of ethyl 7-benzyloxycarbonylamino-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylate (7.8 g) in a mixed solvent of THF (80 ml) and methanol (80 ml) was added 1N aqueous sodium hydroxide (32 ml) under 10° C. The reaction mixture was stirred at room temperature for 4 hours, to which was added 1N hydrochloric acid (35 ml) under 1° C. The reaction mixture was diluted with a saturated aqueous sodium chloride solution and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried, and concentrated to obtain the entitled compound (7.20 g).

reactant | ethyl 7-benzyloxycarbonylamino-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylate | 7.8 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C2CC(C(NC2=C1)=O)C(=O)OCC | C20H20N2O5
reactant | THF | 80 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1N, 32 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 35 ml | Cl | ClH
solvent | sodium chloride | [Cl-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | 7-Benzyloxycarbonylamino-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylic acid | 7.20 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C2CC(C(NC2=C1)=O)C(=O)O | C18H16N2O5
